Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, fevers, chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of PTSD presents with 3 days of cough, fevers, 
and chills. Pt was evaluated at ___ on 
___ found to have a positive flu swab. There he was started on 
Tamiflu and ibuprofen for fever. He was instructed to present to 
the ED if he continued to have fevers through ibuprofen. He 
continued to have chills and sweats - despite sleeping outdoors 
in below freezing weather this past week. The patient reported 
cough, shortness of breath, myalgias, headaches which improve 
with ibuprofen. He denied neck pain, stiffness. He had some 
episodes of diarrhea on the day prior to presentation associated 
with some nausea, but no emesis. 

In the ED, initial vitals were: T 100.8, HR 103, BP 104/68, RR 
18, O2 95% on RA. 
- Exam notable for no adenopathy 
- Labs: WBC 3.6, Hgb 12.3, HCT 37.4, Plt 206, Chemistry normal 
- UA negative leuks, blood, nitrites, 10 ketones 
- lactate 1.0 
- CXR A perihilar opacity best seen on the lateral view is 
concerning for pneumonia
- Treated with acetaminophen/ibuprofen, oseltamivir, doxycycline 
100mg, Zofran and 2L LR 

The patient was initially admitted to ED obs for influenza and 
pneumonia. He was evaluated by the ED social worker due to 
difficulty with dispo given homelessness. The patient was 
presented to ___ house but they had no beds 
available on ___. Per report, they may have a bed over with 
weekend that he can go to if clinically appropriate. Pt also has 
a service dog who would need a crate at ___ house. 
 
On the floor, the patient reports some dyspnea, wheeze and 
cough, productive of yellow-green sputum. He reports nausea this 
morning which resolved spontaneously. Denies diarrhea. Has mild 
RUQ and LUQ abdominal pain. Eating and drinking normally. Denies 
rash. 
Of note, patient with recent history (___) of dyspnea, 
particularly on exertion. He was prescribed albuterol with 
minimal improvement. Subsequently, he was found to have a sinus 
infection and treated with some antibiotic. When his symptoms 
persisted, he was given a course of augmentin and his albuterol 
was discontinued and he was started on flovent. He was evaluated 
by ENT at ___ and underwent nasal polypectomy.   
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
PTSD 
h/o sinusitis s/p nasal polyp removal 
 
Social History:
___
Family History:
Significant only for a father with hypertension. No cancer, 
diabetes, MI, or CVA that he is aware of.   
 
Physical Exam:
ADMISSION LABS:
Vital Signs:  T98.4, BP 95/64, HR 80, RR 18
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear
CV: RRR, nl S1 S2, no murmurs, rubs, gallops  
Lungs: diffuse expiratory wheeze and rhonchi b/l   
Abdomen: soft, nontender, mildly distended, no HSM
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities spontaneously 
Skin: no rash 
 
DISCHARGE EXAM:
Vitals: Tm: 98.2 BP: 99/71P: 74 R: 16 O2: 98RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear
CV: RRR, nl S1 S2, no murmurs, rubs, gallops  
Lungs: scattered wheezing in b/l bases, otherwise CTA   
Abdomen: soft, nontender, mildly distended, no HSM
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities spontaneously 
Skin: no rash 
 
Pertinent Results:
ADMISSION LABS:
___ 12:31AM BLOOD WBC-3.6* RBC-3.95* Hgb-12.3*# Hct-37.4* 
MCV-95 MCH-31.1 MCHC-32.9 RDW-12.5 RDWSD-43.6 Plt ___
___ 12:31AM BLOOD Neuts-81* Bands-0 Lymphs-14* Monos-3* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-2.92 
AbsLymp-0.58* AbsMono-0.11* AbsEos-0.00* AbsBaso-0.00*
___ 12:31AM BLOOD Glucose-85 UreaN-15 Creat-1.0 Na-139 
K-3.5 Cl-103 HCO3-24 AnGap-16
___ 07:10AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0
___ 12:47AM BLOOD Lactate-1.0

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-3.8* RBC-4.29* Hgb-13.5* Hct-41.2 
MCV-96 MCH-31.5 MCHC-32.8 RDW-12.5 RDWSD-44.3 Plt ___
___ 07:10AM BLOOD Glucose-92 UreaN-9 Creat-0.7 Na-139 K-4.7 
Cl-107 HCO3-24 AnGap-13

MICROBIOLOGY:
___ Blood Culture x2 pending 

IMAGING/STUDIES:

CXR ___
Perihilar bronchial cuffing is concerning for bronchitis.
The heart is within normal limits.  There is no pneumothorax.  
Osseous
structures are unremarkable. 
Perihilar bronchial cuffing is concerning for bronchitis.  
PNEUMONIA IS
UNLIKELY.
 
Brief Hospital Course:
___ with PMH of PTSD who presents with influenza and possible 
pneumonia vs. bronchitis. The patient completed a course of 
tamiflu and was started on doxycycline due to concern for 
bacterial bronchitis given persistent fever. 

# Influenza: Pt found to be flu positive at outside urgent care 
facility. There, he was started on Tamiflu 75mg PO BID x5 days. 
The patient completed this course on ___. The patient's 
leukopenia and atypical lymphocytosis was thought to be 
secondary to viral infection. He was treated with 
acetamionphen/ibuprofen as needed for fever/pain. 

# Bronchitis vs. pneumonia: The patient presents with persistent 
fever and cough despite 4 days of tamiflu treatment. He was 
evaluated with a CXR which showed bronchitis. The patient was 
started on antibiotics due to concern for underlying bacterial 
infectious process contributing to his persistent fever. The 
patient will continue doxycycline 100mg BID to complete 5 day 
course. 

# history of sinusitis, h/o nasal polypectomy: continued home 
flovent and fluticasone

# PTSD: managed with service dog per patient report

Transitional Issues: 
- continue doxycycline for 5 days through ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Flovent HFA (fluticasone) 44 mcg/actuation inhalation BID 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. OSELTAMivir 75 mg PO Q12H 
4. Ibuprofen 800 mg PO TID:PRN pain, fever 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0
3. Flovent HFA (fluticasone) 44 mcg/actuation inhalation BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: influenza, bronchitis, leukopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ you for allowing us to participate in your care at ___. 
You were admitted to the hospital with fevers, chills and 
shortness of breath. We evaluated you with a chest xray which 
showed some evidence of bronchitis which is inflammation of your 
airways in your lungs. This is possibly caused by your 
influenza, but may also be related to a bacteria infection. You 
finished your course of Tamiflu. We started on doxycycline, 
which is an antibiotic that you should continue for ___ for 
7 days in total. 

While in the hospital, you were found to have some low blood 
counts. This was likely caused by your viral infection. We 
monitored your blood counts. 

We wish you the best! 
Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___